US04111923
(g) O-Methyl-D-tyrosine methyl ester hydrochloride
O-Methyl-D-tyrosine hydrochloride, 10.0 g., in 100 ml. of methanol is cooled in an ice bath and treated slowly with 3.4 ml. of thionyl chloride. The reaction is stirred for one hour with cooling and then overnight at room temperature. The solution is evaporated to dryness and the residue crystallized from methanol-ether to give 5.2 g. of the above named compound mp. 189°-190° C., [α]D23 -68° (c 1.04, pyridine).

reactant | O-Methyl-D-tyrosine hydrochloride | Cl.COC1=CC=C(C[C@@H](N)C(=O)O)C=C1
reactant | methanol | CO | CH4O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | O-Methyl-D-tyrosine methyl ester hydrochloride | Cl.COC([C@H](N)CC1=CC=C(C=C1)OC)=O | InChI=1S/C11H15NO3.ClH/c1-14-9-5-3-8(4-6-9)7-10(12)11(13)15-2;/h3-6,10H,7,12H2,1-2H3;1H/t10-;/m1./s1
